US07666871B2
2-[2-(4-Benzyloxy-phenyl)-5-methyl-oxazol-4-yl]-1-(2-(R)-methyl-pyrrolidin-1-yl)-ethanone
To a mixture of [2-(4-Benzyloxy-phenyl)-5-methyl-oxazol-4-yl]-acetic acid [CAS 403611-89-2] (2.2 g, 6.8 mmol) in CH2Cl2 (40 mL) is added EDC (1.57 g, 8.2 mmol) and HOBT (1.11 g, 8.2 mmol). After a few minutes, (R)-2-methylpyrrolidine hydrochloride [CAS 41720-98-3] (1.0 g, 8.2 mmol) and DIPEA (2.5 mL, 13.6 mmol) are added. The mixture is stirred at room temperature overnight. The mixture is partitioned between EtOAc and water. The aqueous phase is extracted with EtOAc (2×), and the combined organic phase is washed with brine, dried (Na2SO4), and concentrated. The residue is purified by flash chromatography [120 g SiO2, elute gradient 30% EtOAc/hexane to 80% EtOAc/hexane) to yield 1.25 g of the title compound as a yellow oil. MS (m/e): 391.2 (M+1)

reactant | [2-(4-Benzyloxy-phenyl)-5-methyl-oxazol-4-yl]-acetic acid | 6.8 mmol, 2.2 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)O)C | C19H17NO4
reactant | EDC | 8.2 mmol, 1.57 g
reactant | HOBT | 8.2 mmol, 1.11 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (R)-2-methylpyrrolidine hydrochloride | 8.2 mmol, 1.0 g | Cl.C[C@H]1NCCC1
reactant | DIPEA | 13.6 mmol, 2.5 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 2-[2-(4-Benzyloxy-phenyl)-5-methyl-oxazol-4-yl]-1-(2-(R)-methyl-pyrrolidin-1-yl)-ethanone | 1.25 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)N1[C@@H](CCC1)C)C | C24H26N2O3
